US04265812
Preparation of N-(2-Fluorosulfonylethyl)-N-ethylaniline
N-Ethylaniline (48.4 g 0.4 m), triethylamine (40.4 g 0.4 m) and benzene (100 ml) are stirred together at room temperature and 2-chloroethanesulfonyl fluoride (58.6 g, 0.4 m) is added dropwise. The reaction mixture is heated at reflux for 1.5 hr. after the addition is completed. The reaction mixture is cooled and filtered to remove any insoluble salts, and the benzene is removed by distillation. The crude product is drowned into hexane (150 ml) and purified by filtration and washing with hexane. The product melts at 48°-50° C.

reactant | N-Ethylaniline | 48.4 g | C(C)NC1=CC=CC=C1 | C8H11N
reactant | triethylamine | 40.4 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloroethanesulfonyl fluoride | 58.6 g | ClCCS(=O)(=O)F | C2H4ClFO2S
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | N-(2-Fluorosulfonylethyl)-N-ethylaniline | FS(=O)(=O)CCN(C1=CC=CC=C1)CC | C10H14FNO2S
